US08603340B2
Aluminum Camphorsulfonate
To the amine in the sodium aluminate example above, camphorsulfonic acid was added to bring the pH to the range of 7.5-9. The insoluble precipitate that formed was filtered before use. The control did not require any acid addition.

reactant | camphorsulfonic acid | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium aluminate | O=[Al-]=O.[Na+]
product | Aluminum Camphorsulfonate | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-].[Al+3].C21(C(=O)CC(CC2)C1(C)C)CS(=O)(=O)[O-].C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-] | InChI=1S/3C10H16O4S.Al/c3*1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14;/h3*7H,3-6H2,1-2H3,(H,12,13,14);/q;;;+3/p-3
